US05344843
4-[2-(4-Morpholinyl)-2-oxoethoxy]-alpha-oxobenzeneacetic acid ethyl ester (0.4 g) in methanol (70 mL) was treated with sodium carbonate (0.158 g) in water (2 mL), and the mixture was stirred at room temperature for 1.5 hours. After the solvents were removed in vacuo, dichloromethane (40 mL) and water (40 mL) were added and the mixture was acidified with 3N hydrochloric acid. Tetrahydrofuran was added to dissolve the solids, then the separated aqueous layer was extracted twice with dichloromethane-tetrahydrofuran (1:1). The combined organic layers were dried (MgSO4), evaporated, and the residual solid was crystallized from dichloromethane-tetrahydrofuran-hexane to yield 0.36 g of 4-[2-(4-morpholinyl)-2-oxoethoxy]-alpha-oxobenzeneacetic acid, mp 182°-184° C.

reactant | 4-[2-(4-Morpholinyl)-2-oxoethoxy]-alpha-oxobenzeneacetic acid ethyl ester | 0.4 g | C(C)OC(C(C1=CC=C(C=C1)OCC(=O)N1CCOCC1)=O)=O | C16H19NO6
reactant | sodium carbonate | 0.158 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 70 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 4-[2-(4-morpholinyl)-2-oxoethoxy]-alpha-oxobenzeneacetic acid | 0.36 g | N1(CCOCC1)C(COC1=CC=C(C=C1)C(C(=O)O)=O)=O | C14H15NO6
